### PR TITLE
[Merged by Bors] - feat: continuous linear equivalences act transitively on nonzero vectors

### PR DESCRIPTION
**Pull request by sgouezel**
For any nonzero vectors, one can find a continuous linear equivalence sending the first one to the second one. This follows from the existence of nontrivial linear forms, whichis proved in mathlib in the two following situations:
* normed spaces over R or C
* locally convex vector spaces over R
To obtain a statement that applies in these two cases, we introduce a new typeclass `SeparatingDual`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 1]
```diff
@@ -0,0 +1,121 @@
...
+`SeparatingDual.exists_continuousLinearMap_apply_eq` that the group of continuous linear
+equivalences acts transitively on the set of nonzero vectors.
+-/
+
+/-- When `E` is a topological module over a topological ring `R`, the class `SeparatingDual R E`
+registers that continuous linear forms on `E` separate points of `E`. -/
+class SeparatingDual (R : Type _) (V : Type _) [Ring R] [AddCommGroup V] [TopologicalSpace V]
+  [TopologicalSpace R] [Module R V] : Prop :=
+  /-- Any nonzero vector can be mapped by a continuous linear map to a nonzero scalar. -/
+  exists_ne_zero' : ∀ (x : V), x ≠ 0 → ∃ f : V →L[R] R, f x ≠ 0
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:28]: Should we generalize the definition of `NormedSpace.dual` so that it can be used here?

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 2]
```diff
@@ -0,0 +1,121 @@
...
+section Field
+
+variable {R V : Type _} [NormedField R] [TopologicalSpace V] [AddCommGroup V]
+  [TopologicalAddGroup V] [Module R V] [SeparatingDual R V]
+
+lemma exists_eq_one {x : V} (hx : x ≠ 0) :
+    ∃ f : V →L[R] R, f x = 1 := by
+  rcases exists_ne_zero (R := R) hx with ⟨f, hf⟩
+  refine ⟨(f x)⁻¹ • f, ?_⟩
+  simp only [ContinuousLinearMap.coe_smul', Pi.smul_apply, smul_eq_mul, ne_eq, inv_mul_cancel hf]
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:75]: A topological field is enough here, though `simp` fights slightly harder
```suggestion
variable {R V : Type _} [Field R] [AddCommGroup V] [TopologicalSpace R] [TopologicalSpace V]
  [TopologicalRing R] [TopologicalAddGroup V] [Module R V] [SeparatingDual R V]

lemma exists_eq_one {x : V} (hx : x ≠ 0) :
    ∃ f : V →L[R] R, f x = 1 := by
  rcases exists_ne_zero (R := R) hx with ⟨f, hf⟩
  refine ⟨(f x)⁻¹ • f, ?_⟩
  rw [ContinuousLinearMap.coe_smul', Pi.smul_apply, smul_eq_mul, inv_mul_cancel hf]
```

I haven't attempted to generalize the lemmas that follow, but none of them seem to mention the norm.

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 3]
```diff
@@ -0,0 +1,121 @@
...
+
+theorem exists_eq_one_ne_zero_of_ne_zero_pair
+    {x y : V} (hx : x ≠ 0) (hy : y ≠ 0) :
+    ∃ f : V →L[R] R, f x = 1 ∧ f y ≠ 0 := by
+  obtain ⟨u, ux⟩ : ∃ u : V →L[R] R, u x = 1 := exists_eq_one hx
+  rcases ne_or_eq (u y) 0 with uy|uy
+  · exact ⟨u, ux, uy⟩
+  obtain ⟨v, vy⟩ : ∃ v : V →L[R] R, v y = 1 := exists_eq_one hy
+  rcases ne_or_eq (v x) 0 with vx|vx
+  · exact ⟨(v x)⁻¹ • v, by simp [inv_mul_cancel vx], by simp [vx, vy]⟩
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:85]:
```suggestion
  · exact ⟨(v x)⁻¹ • v, inv_mul_cancel vx, show (v x)⁻¹ * v y ≠ 0 by simp [vx, vy]⟩
```
makes this work with the generalization above

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 4]
```diff
@@ -0,0 +1,121 @@
...
+  · exact ⟨u + v, by simp [ux, vx], by simp [uy, vy]⟩
+
+/-- In a topological vector space with separating dual, the group of continuous linear equivalences
+acts transitively on the set of nonzero vectors: given two nonzero vectors `x` and `y`, there
+exists `A : V ≃L[R] V` mapping `x` to `y`. -/
+theorem exists_continuousLinearMap_apply_eq [ContinuousSMul R V]
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:91]:
```suggestion
theorem exists_continuousLinearEquiv_apply_eq [ContinuousSMul R V]
```

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 5]
```diff
@@ -0,0 +1,121 @@
...
+    simpa [hf] using hx⟩
+
+namespace SeparatingDual
+
+section CommRing
+
+variable {R V : Type _} [CommRing R] [AddCommGroup V] [TopologicalSpace V]
+  [TopologicalSpace R] [Module R V] [SeparatingDual R V]
+
+lemma exists_ne_zero  {x : V} (hx : x ≠ 0) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:50]:
```suggestion
lemma exists_ne_zero {x : V} (hx : x ≠ 0) :
```

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 6]
```diff
@@ -0,0 +1,121 @@
...
+  ⟨fun x hx ↦ by
+    rcases exists_dual_vector 𝕜 x hx with ⟨f, -, hf⟩
+    refine ⟨f, ?_⟩
+    simpa [hf] using hx⟩
+
+namespace SeparatingDual
+
+section CommRing
+
+variable {R V : Type _} [CommRing R] [AddCommGroup V] [TopologicalSpace V]
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:47]: Any reason you use `CommRing` here but `Ring` above?

**Comment by sgouezel** [comment]
I don't think we can hope to have a single version of Hahn-Banach that covers all interesting examples (e.g. spherically complete nonarchimedean fields), so I expect this class will stay.

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:75]: Yes, I had been lazy and went directly to what I needed for my application, but I agree your version is better.

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:28]: I'm not sure I see the point of `NormedSpace.dual` (it's a non-reducible type synonym, but with the same typeclasses as the original one). In doubt, I'd rather stay with the basic version.

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 7]
```diff
@@ -0,0 +1,118 @@
...
+lemma exists_ne_zero {x : V} (hx : x ≠ 0) :
+    ∃ f : V →L[R] R, f x ≠ 0 :=
+  exists_ne_zero' x hx
+
+theorem exists_separating_of_ne {x y : V} (h : x ≠ y) :
+    ∃ f : V →L[R] R, f x ≠ f y := by
+  rcases exists_ne_zero (R := R) (sub_ne_zero_of_ne h) with ⟨f, hf⟩
+  exact ⟨f, by simpa [sub_ne_zero] using hf⟩
+
+protected theorem T1Space [T1Space R] : T1Space V := by
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:59]:
```suggestion
protected theorem t1Space [T1Space R] : T1Space V := by
```

Could you also add the `T2` version?

**Review by ADedecker — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 8]
```diff
@@ -0,0 +1,118 @@
...
+-/
+
+/-- When `E` is a topological module over a topological ring `R`, the class `SeparatingDual R E`
+registers that continuous linear forms on `E` separate points of `E`. -/
+class SeparatingDual (R : Type _) (V : Type _) [Ring R] [AddCommGroup V] [TopologicalSpace V]
+    [TopologicalSpace R] [Module R V] : Prop :=
+  /-- Any nonzero vector can be mapped by a continuous linear map to a nonzero scalar. -/
+  exists_ne_zero' : ∀ (x : V), x ≠ 0 → ∃ f : V →L[R] R, f x ≠ 0
+
+instance {E : Type _} [TopologicalSpace E] [AddCommGroup E] [TopologicalAddGroup E]
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:30]:
```suggestion
instance {E : Type*} [TopologicalSpace E] [AddCommGroup E] [TopologicalAddGroup E]
```
And elsewhere

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 9]
```diff
@@ -0,0 +1,125 @@
...
+  apply t1Space_iff_exists_open.2 (fun x y hxy ↦ ?_)
+  rcases exists_separating_of_ne (R := R) hxy with ⟨f, hf⟩
+  exact ⟨f ⁻¹' {f y}ᶜ, isOpen_compl_singleton.preimage f.continuous, hf, by simp⟩
+
+protected theorem t2Space [T2Space R] : T2Space V := by
+  apply t2Space_iff_nhds.2 (fun {x} {y} hxy ↦ ?_)
+  rcases exists_separating_of_ne (R := R) hxy with ⟨f, hf⟩
+  rcases t2_separation_nhds hf with ⟨u, v, hu, hv, huv⟩
+  exact ⟨f ⁻¹' u, f.continuous.continuousAt hu, f ⁻¹' v, f.continuous.continuousAt hv,
+    huv.preimage f⟩
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:69]:
```suggestion
  apply (t2Space_iff _).2 (fun {x} {y} hxy ↦ ?_)
  rcases exists_separating_of_ne (R := R) hxy with ⟨f, hf⟩
  exact separated_by_continuous f.continuous hf
```

Meta: Is it okay to add small suggestions like that on delegated PRs, or is it bad practice?

Comment (sgouezel) [reply Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:69]: And thanks, by the way!
